US04472433
A solution of 2-oxo-7-(4-chlorophenylthio)indoline (7.0 g) in chloroform (400 ml) and m-chloroperbenzoic acid (5.15 g) were treated in a similar manner to that of Preparation 28-(2) to give 2-oxo-7-(4-chlorophenylsulfinyl)indoline (3.85 g). mp 191°-194° C.

reactant | 2-oxo-7-(4-chlorophenylthio)indoline | 7.0 g | O=C1NC2=C(C=CC=C2C1)SC1=CC=C(C=C1)Cl | C14H10ClNOS
reactant | m-chloroperbenzoic acid | 5.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-oxo-7-(4-chlorophenylsulfinyl)indoline | 3.85 g | O=C1NC2=C(C=CC=C2C1)S(=O)C1=CC=C(C=C1)Cl | C14H10ClNO2S
